US05866583
A solution of 1.68 g of ethyl 2,5-dimethyl-2H-pyrazole-3-carboxylate in 3.8 ml of phenethylamine was treated with 0.10 g of rhodium(III) trichloride.trihydrate and heated to 140° C. while stirring for 21 h. Subsequently, the mixture was taken up in ethyl acetate/water, adjusted to pH 2-3 with 2N HCl and extracted three times with ethyl acetate. The combined organic phases were washed neutral with sat. aqueous sodium chloride solution, dried over sodium sulfate and evaporated. Chromatographic purification on silica gel with hexane/ethyl acetate 50:50 yielded 1.92 g (79%) of cryst. product of m.p. 97°-98° C. Recrystallization of a sample from tBuOMe gave 2,5-dimethyl-2H-pyrazole-3-carboxylic acid phenethyl-amide as colorless crystals of m.p. 97.5°-98.5° C.

reactant | ethyl 2,5-dimethyl-2H-pyrazole-3-carboxylate | 1.68 g | CN1N=C(C=C1C(=O)OCC)C | C8H12N2O2
reactant | HCl | 2N | Cl | ClH
reactant | phenethylamine | 3.8 ml | C(CC1=CC=CC=C1)N | C8H11N
solvent | ethyl acetate water | C(C)(=O)OCC.O
catalyst | rhodium(III) trichloride | 0.10 g | [Rh](Cl)(Cl)Cl
product | 2,5-dimethyl-2H-pyrazole-3-carboxylic acid phenethyl-amide | C(CC1=CC=CC=C1)NC(=O)C=1N(N=C(C1)C)C | C14H17N3O
